US04775671
17.0 g (105 mmol) of N,N'-carbonyldiimidazole are added portionwise to a solution of 8.61 g (100 mmol) of cyclopropanecarboxylic acid in 30 ml of N,N-dimethylformamide. The mixture is stirred at room temperature for 1 hour and then heated rapidly to 50°. The solution obtained is added to a suspension of 33.1 g (100 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime in 100 ml of N,N-dimethylformamide and the mixture is heated to 90° for 2.5 hours. The solvent is removed on a rotary evaporator and is replaced by 100 ml of acetic acid. After stirring at 120° for 2.5 hours the mixture is again evaporated, the residue is dissolved in methylene chloride and washed with saturated sodium bicarbonate solution. The organic phase is dried over magnesium sulphate and concentrated. By chromatography of the oily residue on silica gel while eluting with ethyl acetate and recrystallization from alcohol and a small amount of methylene chloride there is obtained (S)-8-chloro-1-[5-(cyclopropyl)-1,2,4-oxadiazol-3-yl]-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 236°-237°

reactant | cyclopropanecarboxylic acid | 100 mmol, 8.61 g | C1(CC1)C(=O)O | C4H6O2
reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime | 100 mmol, 33.1 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CCC1)=O | C15H14ClN5O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-[5-(cyclopropyl)-1,2,4-oxadiazol-3-yl]-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)C3CC3)CCC1)=O | C19H16ClN5O2
